US04515786
Ethyl 3α-acetoxy-11α-(3-methylbutylamino)-2β-ethoxy-5α-androstane-17β-carboxylate
Ethyl 2β-ethoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate (200 mg) in chloroform (2.15 ml) containing dry toluene-4-sulphonic acid (PTSA; 172 mg) was stirred for 20 min, then treated with acetic anhydride (0.5 ml) and the mixture left for 18 h. The reaction mixture was diluted with ethanol and evaporated. The residue in ethyl acetate was washed with dilute ammonia solution (2×) and water (1×), dried and evaporated to give the title compound as an oil (220 mg), [α]D +25.8° (CHCl3C=1%), νmax 1720 cm-1.

reactant | Ethyl 2β-ethoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 200 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OCC)O | C29H51NO4
reactant | toluene-4-sulphonic acid | 172 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 2.15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3α-acetoxy-11α-(3-methylbutylamino)-2β-ethoxy-5α-androstane-17β-carboxylate | 220 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1OCC)C)NCCC(C)C)C(=O)OCC | C31H53NO5
